US06777446B2
1,4-Dimethyl-10H-9-thia-10-aza-phenanthrene 9,9-dioxide (2.6 g, 10 mmol) is dissolved in pyridine (10 mL) and treated with p-toluenesulfonyl chloride (2.8 g, 15 mmol). The reaction mixture stirred at 60° C. until TLC shows disappearance of the starting material. The reaction mixture is allowed to cool and then poured into 100 mL of 3N HCl. The mixture is extracted 2×100 mL EtOAc and the combined organic layers are washed with sat. brine, dried over MgSO4, filtered, and concentrated to a solid, which is recrystallized from hot EtOAc/hexanes to give 1,4-dimethyl-10-(toluene-4-sulfonyl)-10H-9-thia-10-aza-phenanthrene 9,9-dioxide.

reactant | 1,4-Dimethyl-10H-9-thia-10-aza-phenanthrene 9,9-dioxide | 10 mmol, 2.6 g | CC1=CC=C(C=2C3=CC=CC=C3S(NC12)(=O)=O)C | C14H13NO2S
reactant | p-toluenesulfonyl chloride | 15 mmol, 2.8 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | HCl | 3N, 100 mL | Cl | ClH
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 1,4-dimethyl-10-(toluene-4-sulfonyl)-10H-9-thia-10-aza-phenanthrene 9,9-dioxide | CC1=CC=C(C=2C3=CC=CC=C3S(N(C12)S(=O)(=O)C1=CC=C(C=C1)C)(=O)=O)C | C21H19NO4S2
